US08648202B2
Ethyl bis(pentafluoroethyl)phosphinite
Bis(pentafluoroethyl)phosphinous acid chloride, (C2F5)2PCl, obtainable in accordance with Example 2, is added to a mixture of ethanol and 4-dimethylaminopyridine in diethyl ether at room temperature. The precipitated product 4-dimethylaminopyridinium chloride is separated off, and the solution comprises ethyl bis(pentafluoroethyl)phosphinite, (C2F5)2POC2H5.

reactant | Bis(pentafluoroethyl)phosphinous acid chloride | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)Cl | C4ClF10P
reactant | (C2F5)2PCl | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)Cl | C4ClF10P
reactant | ethanol | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl bis(pentafluoroethyl)phosphinite | FC(C(F)(F)F)(F)P(OCC)C(C(F)(F)F)(F)F | C6H5F10OP
